US06420364B1
{[1-(4-Cyano-1-methyl-piperidin-4-ylcarbamoyl)-2-cyclohexyl-ethylamino]-morpholin-4-yl-methylen}-carbamic Acid Ethyl Ester (Method E)
2-Chloro-N-methylpyridinium iodide (680 mg, 2.66 mmol), was added to a solution of (Morpholine-4-carbothioyl)-carbamic acid ethyl ester (450 mg, 2.06 mmol), 2-amino-N-(4-cyano-1-methyl-piperidin-4-yl)-3-cyclohexyl-propionamide bis hydrochloride salt (745 mg, 2.04 mmol), and N,N-diisopropylethylamine (1.10 mL, 6.3 mmol) in dichloromethane (8.0 mL). The reaction was stirred at room temperature for 2.5 h then taken up in 10% citric acid solution and washed with EtOAc. The aqueous phase was then basified with saturated sodium carbonate and extracted with EtOAc. The organic extract was dried (MgSO4) and concentrated to provide the desired product as a white solid (250 mg, 26%). This material was further purified by HPLC using a 20×250 mm C18 reverse phase column with the method being 20% acetonitrile in water to 90% acetonitrile in water. MS, m/z 477=M+1.

reactant | 2-Chloro-N-methylpyridinium iodide | 2.66 mmol, 680 mg | [I-].ClC1=[N+](C=CC=C1)C
reactant | (Morpholine-4-carbothioyl)-carbamic acid ethyl ester | 2.06 mmol, 450 mg | C(C)OC(NC(=S)N1CCOCC1)=O | C8H14N2O3S
reactant | 2-amino-N-(4-cyano-1-methyl-piperidin-4-yl)-3-cyclohexyl-propionamide bis hydrochloride salt | 2.04 mmol, 745 mg | Cl.Cl.NC(C(=O)NC1(CCN(CC1)C)C#N)CC1CCCCC1
reactant | N,N-diisopropylethylamine | 6.3 mmol, 1.10 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dichloromethane | 8.0 mL | ClCCl | CH2Cl2
solvent | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
product | {[1-(4-Cyano-1-methyl-piperidin-4-ylcarbamoyl)-2-cyclohexyl-ethylamino]-morpholin-4-yl-methylen}-carbamic Acid Ethyl Ester | 250 mg, 26% | C(C)OC(N=C(N1CCOCC1)NC(CC1CCCCC1)C(NC1(CCN(CC1)C)C#N)=O)=O | C24H40N6O4
